US06596734B1
1-(3,5-dibromo-4-methoxybenzyl)-7-nitro-1,2,3,4-tetrahydroisoquinolin-6-ol hydrochloride.
A solution of 6-benzyloxy-1-(3,5-dibromo-4-methoxybenzyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline oxalate (13.05 g, 0.02 mol) in 250 mL of acetic acid and 250 mL of conc. HCl was refluxed for 1 h, solvents evaporated to dryness and the residue was recrystallized from MeOH-ether (first dissolved in 500 mL of MeOH and concentrated in a stream of argon). Yield 9.04 g (89%).

reactant | 6-benzyloxy-1-(3,5-dibromo-4-methoxybenzyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline oxalate | 0.02 mol, 13.05 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1[N+](=O)[O-])CC1=CC(=C(C(=C1)Br)OC)Br
reactant | HCl | 250 mL | Cl | ClH
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 1-(3,5-dibromo-4-methoxybenzyl)-7-nitro-1,2,3,4-tetrahydroisoquinolin-6-ol hydrochloride | Cl.BrC=1C=C(CC2NCCC3=CC(=C(C=C23)[N+](=O)[O-])O)C=C(C1OC)Br | InChI=1S/C17H16Br2N2O4.ClH/c1-25-17-12(18)4-9(5-13(17)19)6-14-11-8-15(21(23)24)16(22)7-10(11)2-3-20-14;/h4-5,7-8,14,20,22H,2-3,6H2,1H3;1H
